US06965048B2
100 mg (0.24 mmol) of trans-3-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionic acid in 3 mL of CH2Cl2 were treated with 21.3 mg (0.36 mmol, 1.5 eq) of 4-hydroxypiperidine and 0.40 mL (0.36 mmol, 1.5 eq) of NMM. The solution was cooled to 0° C. and 60.9 mg (0.31 mmol, 1.3 eq) of EDCI and 7.5 mg (0.05 mmol, 0.2 eq) of HOBT were added. The mixture was stirred at RT over night, and was then partitioned between CH2Cl2 and a saturated aqueous solution of Na2CO3. The organic phase was washed with a solution of KHSO4 and brine, dried over Na2SO4 and evaporated. Column chromatography with CH2Cl2:MeOH 98:2 gave 97.1 mg (81%) of trans-N-{4-[3-(4-hydroxy-piperidin-1-yl)-3-oxo-propoxy]-cyclohexyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide as white powder, MS: 493 (MH+).

reactant | trans-3-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionic acid | 0.24 mmol, 100 mg | CN([C@@H]1CC[C@H](CC1)OCCC(=O)O)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C17H22F3NO5S
reactant | 4-hydroxypiperidine | 0.36 mmol, 21.3 mg, 1.5 eq | OC1CCNCC1 | C5H11NO
reactant | NMM | 0.36 mmol, 0.40 mL, 1.5 eq | CN1CCOCC1 | C5H11NO
reactant | EDCI | 0.31 mmol, 60.9 mg, 1.3 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.05 mmol, 7.5 mg, 0.2 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | trans-N-{4-[3-(4-hydroxy-piperidin-1-yl)-3-oxo-propoxy]-cyclohexyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide | 97.1 mg, 81% | OC1CCN(CC1)C(CCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)=O | C22H31F3N2O5S
